Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
citalopram / iron
 
Attending: ___
 
Chief Complaint:
Abdominal pain, nausea, vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of ___ disease s/p multiple abdominal 
surgeries (most recently, ___, ex lap, small bowel 
resection, ileostomy revision for perforated SBO), PE on 
coumadin, intra-abdominal abscesses on ertapenem, who presents 
with persistent LLQ pain, N/V, & inability to take PO. Patient 
states she developed LLQ pain over the weekend. She had pizza at 
a ___ game on ___ night, then on ___ afternoon she 
started to feel LLQ pain. This has been a/w nausea and 3 
episodes of NBNB emesis, worse with food & meds. Pain does not 
radiate. She presented to the ED on the night of ___, CRC 
evaluated; KUB reassuring, no further imaging or Abx given. She 
continues to take ertapenem for splenic abscess. She was 
discharged from the ED yesterday morning, slept for a few hours, 
woke up with LLQ pain. Tried eating, vomited. Fever 100.7 at 
home (first fever). She also noticed looser, increased ostomy 
output. She re-presented to the ED given persistent pain and 
inability to tolerate POs.  

In the ED, initial vital signs were: 98.4 100 ___ 99% RA. 
 
- Exam was notable for: nontoxic appearance, Abd: ostomy, 
surgical scar c/d/I; LLQ tenderness, no rebound/guard but very 
tender.  

- Labs were notable for: wbc 7, H/H 8.2/26.5, normal serum 
chemistries. UA with moderate leuks, 7 wbcs, few bacteria.  
- Imaging: CT A/P with contrast: 1. Previously seen presacral 
and perisplenic fluid collections are smaller compared to prior. 
 
2. Fluid collection near the dome of the liver is slightly 
larger compared to prior. US spleen: Small amount of fluid 
surrounding the spleen appears similar to the prior ultrasound 
of ___.  

- The patient was given: 1L NS, dilaudid and acetaminophen for 
pain control.  

- Consults: colorectal surgery, "Pt's CT reviewed. Overall 
improved picture from prior, with decrease in previous presacral 
and perisplenic collections and no leukocytosis to suggest 
persistent infection. NO surgical interventions or admission 
necessary. Would continue antibiotics until completion."  

- Pt was admitted to medicine for: "currently not tolerating POs 
and feels uncomfortable going home given recent failure to 
tolerate PO/pain control at home. will admit for symptom control 
in the context of PO intolerance."  

Vitals prior to transfer were: 97.9 74 104/67 17 99% RA.  
 
Past Medical History:
PAST MEDICAL HISTORY:
- PE ___
- Tib-fib fx (___) s/p ORIF, c/b osteomyelitis
- ___ disease (___): Currently on Xeljanz, previously on 
Humira, Remicade, ___. Followed by  Dr. ___ and Dr. 
___ at ___
- Post-surgical DVT (___): in LLE, s/p 6 month course of 
Coumadin
- ___ pyoderma gangrenosum (___): Followed by Dr. ___ 
___ at ___
- H. pylori (___)
- C. difficile (___)
- Acute pancreatitis (___)
- Serotonin syndrome (___)
- Depression
- Headache (migraine and tension)
- Bruxism/TMJ: uses nightguard
- S/p sialolithiasis

PAST SURGICAL HISTORY:  
- ORIF tib-fib fx (___)
- Examination under anesthesia, placement ___ through the 
primary rectovaginal fistula and excision of skin tags (___)
- Lap diverting ileostomy (___)  
- Excision of fistulous track and primary repair of vaginal 
canal, perineal vaginal mucosa (___)
- Lap left hemicolectomy, proctectomy and excision of anus w/ 
end colostomy, takedown of ileostomy (___)
- Lap completion colectomy w/ end ileostomy (___)
- Revision of ileostomy (___)
- Revision of ileostomy and debridement and drainage of abscess 
cavity (___)
- Transvaginal revision of levatorplasty (release of mid vaginal 
band) (___)
- Exploratory laparoscopy,resection and revision of end 
___
- Exploratory laparotomy, revision of ileostomy with 
extraperitonealization of the ileostomy (___)
- Exploratory laparotomy, resection of perforated bowel and 
revision of ileostomy (___)

 
Social History:
___
Family History:
-Mother: HTN, T2DM, hypercholesterolemia, ___ (diagnosed as 
adult)
-Father: ___ on ___ with pacemaker, s/p TIA during 
procedure
-Older brother: obesity
-MGM (deceased): lung cancer, smoking
-MGF (deceased): MI in ___, deceased
-PGM (deceased): pancreatic cancer, deceased
-PGF (deceased): MI in ___
-Paternal cousin: ___
-Paternal uncle: CVA in ___
-No history of melanoma, breast, ovarian, or colon cancer
 
Physical Exam:
>> ADMISSION PHYSICAL EXAM:
VITALS: T 97.9 P 68 BP 101/58 RR 16 Sat 98% RA
GENERAL: Pleasant, well-appearing, in no apparent distress.  
HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral cterus, PERRLA, EOMI, OP clear.  
NECK: Supple, normal ROM  
CARDIAC: RRR, normal S1/S2, no murmurs rubs or gallops.  
PULMONARY: Clear to auscultation bilaterally, without wheezes or 
rhonchi.  
ABDOMEN: Soft, non-distended. Midline surgical incision clean 
and dry. Tap tenderness over left abdomen without rebound or 
guarding. Mildly TTP over right abdomen. 
EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema.  
SKIN: Without rash.  
NEUROLOGIC: A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout.  
.
>> DISCHARGE PHYSICAL EXAM:
VITALS: Tmax 98.6 BP ___ P ___ RR 18 Sat 95-100% RA
GENERAL: Pleasant, well-appearing, in no apparent distress.  
HEENT: MMM, OP clear 
CARDIAC: RRR, normal S1/S2, no murmurs rubs or gallops.  
PULMONARY: Clear to auscultation bilaterally, without wheezes or 
rhonchi.  
ABDOMEN: Soft, non-distended. Midline surgical incision clean 
and dry. Mild tap tenderness over left abdomen without rebound 
or guarding. Mildly TTP over right abdomen. 
EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema.  
SKIN: Without rash. 
 
Pertinent Results:
>> ADMISSION LABS:
___ 08:45PM BLOOD WBC-7.0 RBC-3.16* Hgb-8.2* Hct-26.5* 
MCV-84 MCH-25.9* MCHC-30.9* RDW-21.9* RDWSD-67.4* Plt ___
___ 08:45PM BLOOD Neuts-70.8 Lymphs-18.3* Monos-8.3 Eos-2.0 
Baso-0.3 Im ___ AbsNeut-4.92 AbsLymp-1.27 AbsMono-0.58 
AbsEos-0.14 AbsBaso-0.02
___ 08:45PM BLOOD Glucose-89 UreaN-5* Creat-0.8 Na-141 
K-3.6 Cl-106 HCO3-25 AnGap-14
___ 08:45PM BLOOD ALT-23 AST-24 AlkPhos-122* Amylase-63 
TotBili-0.1
___ 08:45PM BLOOD Lipase-79*
___ 08:45PM BLOOD CRP-29.9*
.
>> DISCHARGE LABS:
___ 05:15AM BLOOD CK(CPK)-21*
___ 05:15AM BLOOD WBC-6.8 RBC-3.28* Hgb-8.6* Hct-27.7* 
MCV-85 MCH-26.2 MCHC-31.0* RDW-21.2* RDWSD-64.6* Plt ___
___ 05:15AM BLOOD ___
___ 05:15AM BLOOD Glucose-68* UreaN-8 Creat-0.8 Na-137 
K-3.8 Cl-102 HCO3-25 AnGap-14
___ 04:51AM BLOOD ALT-18 AST-20 LD(LDH)-117 AlkPhos-120* 
TotBili-0.1
___ 05:15AM BLOOD Calcium-9.1 Phos-3.8 Mg-1.7
.
>> INTERVAL LABS:
___ 06:13AM BLOOD ___
___ 04:51AM BLOOD ___ PTT-49.0* ___

 
Brief Hospital Course:
___ with history of ___ disease s/p multiple abdominal 
surgeries (most recently, ___, ex lap, small bowel 
resection, ileostomy revision for perforated SBO), and several 
intra-abdominal abscesses, who was admitted with LLQ pain, N/V, 
& inability to take PO.  
.
>>ACTIVE ISSUES:
# Abdominal abscesses: Ms. ___ presented with four 
days of abdominal pain and nausea, with borderline leukocytosis 
and CRP 33 (down from previous admissions). A CT abdomen and 
pelvis demonstrated a slight increase in size of her perihepatic 
fluid collection, with slight decrease in size of her other 
collections. The perihepatic collection was not able to be 
sampled safely by ___. Infectious disease was consulted and 
recommended changes in her antibiotic regimen: home ertapenem -> 
cefepime/metronidazole -> meropenem -> meropenem/vancomycin -> 
meropenem/daptomycin. Ultimately, daptomycin was added 
empirically to her home ertapenem for enterococcus coverage, 
with ease of monitoring as the advantage over vancomycin. She 
was discharged on daptomycin/ertapenem. 
.
Aside from the possible worsening abdominal abscess, no other 
etiologies for the patient's pain were identified. It is 
possible that abscesses plus adhesions (given extensive surgical 
history) led to some diffuse pain and motility issues. Her pain 
was best controlled with IV dilaudid and liquid oxycodone (which 
she feels she absorbs better). Her nausea improved with Zofran 
and bowel rest, and she was able to advance to a regular diet by 
the time of discharge. 
.
# ___ disease: s/p colectomy and end ileostomy, c/b multiple 
SBO's c/b perforation in ___, s/p small bowel resection, 
which was c/b multiple abdominal abscesses, and more recently 
with development of enterocutaneous fistula. Given CRP much 
lower than previous admissions, this was thought not to be a 
___ flare. The patient was continued on her home tofacitinib 
(Xeljanz).
.
>> STABLE ISSUES:
# Pulmonary Embolism: Patient was diagnosed with PE during her 
hospitalization ___. During this hospitalizations he 
had no hypoxia or respiratory distress. Her warfarin dose was 
adjusted a few times to maintain INR ___. Her INR was 1.8 on the 
day of discharge, and she was discharged on her home dose of 
3mg.

# Normocytic Anemia: Her H/H on admission was 8.___.2, stable 
from prior values. Her H/H remained stable on the floor with a 
discharge Hb of 8.6. Previous labs have been consistent with 
anemia of chronic disease, which we suspect continues to be the 
underlying cause.
.
# GERD: continued on home omeprazole. No issues while in house.
.
# Depression: continued on home bupropion. No mood issues while 
in house.
.
# Migraine: home sumatriptan was held. She had no headaches.
.
>> TRANSITIONAL ISSUES:
# Intra-abdominal Abscess: Patient to continue ertapenem and 
daptomycin upon discharge from hospital. Patient enrolled in 
___, and will have f/u labs performed weekly and faxed to OPAT 
office including CBC with diff, Chem-7, LFTs, and CK. 
# Abdominal Pain: Patient transitioned to 10 mg every 6 hours 
PRN for pain. Pharmacy contacted regarding adequate dosing. 
Would consider further pain consultation, long acting opiates 
(methadone?) as outpatient if continues to be elevated. 
# Pulmonary Embolism: Patient's discharge INR 1.8. Please 
continue to check INR on ___, and fax results to Dr. ___ 
___, PCP. 
# Nausea/Vomiting: Patient ___ benefit from gastric emptying 
study as outpatient. 
# ___ Disease: Patient to continue home Xeljan. 
# Pending Labs: Please follow up blood culture, negative growth 
to date upon discharge. 
# CONTACT: Husband ___ ___ 
# CODE STATUS: Full code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion 75 mg PO BID 
2. Acetaminophen 650 mg PO Q6H:PRN pain 
3. HYDROmorphone (Dilaudid) ___ mg PO Q6H:PRN moderate-severe 
pain 
4. Omeprazole 40 mg PO BID 
5. tofacitinib 5 mg oral BID 
6. Calcium Carbonate 500 mg PO DAILY 
7. Vitamin D 200 UNIT PO DAILY 
8. lactobacillus combination ___ billion cell oral DAILY 
9. Warfarin 3 mg PO DAILY 
10. Sumatriptan Succinate 100 mg PO ONCE headache 

 
Discharge Medications:
1. Daptomycin 350 mg IV Q24H 
RX *daptomycin [Cubicin] 500 mg 350 mg IV daily Disp #*28 Vial 
Refills:*0
2. Ertapenem Sodium 1 g IV 1X Duration: 1 Dose 
RX *ertapenem [Invanz] 1 gram 1 gram IV daily Disp #*28 Vial 
Refills:*0
3. Acetaminophen 650 mg PO Q6H:PRN pain 
4. BuPROPion 75 mg PO BID 
5. Omeprazole 40 mg PO BID 
6. Warfarin 3 mg PO DAILY 
7. OxycoDONE Liquid 10 mg PO Q6H:PRN moderate pain 
RX *oxycodone 5 mg/5 mL 10 mg by mouth every 6 hours Refills:*0
8. Calcium Carbonate 500 mg PO DAILY 
9. lactobacillus combination ___ billion cell oral DAILY 
10. Sumatriptan Succinate 100 mg PO ONCE headache 
11. tofacitinib 5 mg oral BID 
12. Vitamin D 200 UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES 
___ disease 
Intra-abdominal infection 
 
SECONDARY DIAGNOSES 
Pulmonary embolism 
Anemia 
GERD 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of you at ___. You were admitted 
to the hospital with abdominal pain, nausea, and vomiting.

A CT scan showed that the fluid collections in your abdomen were 
about the same size as before, with the one around your liver 
being slightly larger. Lab tests showed anemia and an elevated 
alkaline phosphatase level. Both of these were consistent with, 
or even a little better than your previous levels. 

You were given IV fluids, IV and oral pain medications, as well 
as most of your home medications. We changed your antibiotics in 
order to make sure that we are treating the abdominal infection, 
so you will take ertapenem and daptomycin when you go home. 
While you were here, your nausea improved, allowing you to eat 
and drink, and your pain was eventually controlled with liquid 
oxycodone. You will continue on ___ at home with Dr. ___.

Please be sure to follow up with your primary care physician and 
outpatient specialists.

We wish you the best,
Your ___ Team
 
Followup Instructions:
___